US06900227B2
Preparation of 1-(2,2-diphenyl-benzo[1,3]dioxol-5-yl-methyl)-4-(4-fluoro-phenyl)-1,2,3,6-tetrahydro-pyridine
Lithium aluminium hydride (13 mg, 0.36 mmol) was suspended in THF (10 ml). At room temperature (2,2-Diphenyl-benzo[1,3]dioxol-5-yl)-[4-(4-fluoro-phenyl)-3,6-dihydro-2H-pyridin-1-yl]-methanone (104 mg, 0.22 mmol) dissolved in THF (1.5 ml) was added dropwise under argon. The reaction was heated to reflux for 2 hours. Lithium aluminium hydride (50 mg) was added and the reaction was heated to reflux overnight under argon. Lithium aluminium hydride solution (0.3 ml, 1M solution in THF) was added and the reaction heated to reflux for 4 hours. The reaction was cooled (ice bath) and under argon a mixture of water (0.4 ml) and THF (1.5 ml) was added slowly. The reaction was stirred for 10 minutes and solid potassium carbonate (2 g) was added. The reaction was filtered and the filtrate was concentrated in vacuo. The residue was dissolved in ethyl acetate. The organic solution was dried over sodium sulfate, filtered and the solvent was evaporated to yield the product as a white colorless viscous oil (85 mg, 85%).

reactant | Lithium aluminium hydride | 0.36 mmol, 13 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (2,2-Diphenyl-benzo[1,3]dioxol-5-yl)-[4-(4-fluoro-phenyl)-3,6-dihydro-2H-pyridin-1-yl]-methanone | 0.22 mmol, 104 mg | C1(=CC=CC=C1)C1(OC2=C(O1)C=CC(=C2)C(=O)N2CCC(=CC2)C2=CC=C(C=C2)F)C2=CC=CC=C2 | C31H24FNO3
reactant | Lithium aluminium hydride | 50 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Lithium aluminium hydride | 1M, 0.3 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.4 ml | O | H2O
reactant | potassium carbonate | 2 g | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 1.5 ml | C1CCOC1 | C4H8O
solvent | THF | 1.5 ml | C1CCOC1 | C4H8O
product | 1-(2,2-diphenyl-benzo[1,3]dioxol-5-yl-methyl)-4-(4-fluoro-phenyl)-1,2,3,6-tetrahydro-pyridine | 85 mg, 85% | C1(=CC=CC=C1)C1(OC2=C(O1)C=CC(=C2)CN2CCC(=CC2)C2=CC=C(C=C2)F)C2=CC=CC=C2 | C31H26FNO2
